US04948911
Also, for example, 2,7-bis(chlorosulfonyl)-fluorenone can be mixed with a heated solution of sodium bicarbonate and sodium sulfite in water to yield 2,7-bis(sodiosulfonyl)fluorenone, which can be refluxed with n-butyl iodide in ethanol to yield 2,7-bis(n-butylsulfonyl)fluorenone, which in turn can be refluxed with malononitrile in methanol in the presence of piperidine to yield 2,7-bis(n-butyl sulfonyl)-9-(dicyanomethylene)fluorene.

reactant | 2,7-bis(chlorosulfonyl)-fluorenone | ClS(=O)(=O)C=1C(C2=CC3=CC(=CC=C3C2=CC1)S(=O)(=O)Cl)=O | C13H6Cl2O5S2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | water | O | H2O
product | 2,7-bis(sodiosulfonyl)fluorenone | [Na]S(=O)(=O)C=1C(C2=CC3=CC(=CC=C3C2=CC1)S(=O)(=O)[Na])=O | InChI=1S/C13H6O5S2.2Na/c14-13-11-6-7-5-8(19(15)16)1-2-9(7)10(11)3-4-12(13)20(17)18;;/h1-6H;;
